US07244843B2
1,2,3,4,11,11a-Hexahydro-2-benzyl-4-methyl-pyrazino[1,2-b]isoquinolin-6-one (from Isomer B, 12 mg, 0.04 mmol) and 10% palladium on carbon (5 mg) in MeOH (1 ml) was stirred under a balloon of hydrogen. The catalyst was filtered off and then fresh catalyst added. After stirring an additional 4 h at 40° C. under a balloon of hydrogen, the reaction was filtered through Celite® rinsing with methanol to afford 8 mg of crude product. Column purification (Chiralcel OD, 10% 1/1 MeOH/EtOH in hexanes) afforded pure (4R,11aR)-1,2,3,4,11,11a-hexahydro-2,4-dimethyl-pyrazino[1,2-b]isoquinolin-6-one (1.5 mg, 17% yield) MS (ESI) 231 (M+H). Further elution afforded (4S,1 aS)-1,2,3,4,11,11a-hexahydro-2,4-dimethyl-pyrazino[1,2-b]isoquinolin-6-one (1.6 mg, 18% yield) MS (ESI) 231 (M+H). Further elution also provided (4R,11aR)-1,2,3,4,11,11a-hexahydro-4-methyl-pyrazino[1,2-b]isoquinolin-6-one (2.4 mg, 29% yield) and (4S,11aS)-1,2,3,4,11,11a-hexahydro-4-methyl-pyrazino[1,2-b]isoquinolin-6-one (2.2 mg, 27% yield).

reactant | 1,2,3,4,11,11a-Hexahydro-2-benzyl-4-methyl-pyrazino[1,2-b]isoquinolin-6-one | 0.04 mmol, 12 mg | C(C1=CC=CC=C1)N1CC2N(C(C=3C=CC=CC3C2)=O)C(C1)C | C20H22N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
solvent | MeOH | 1 ml | CO | CH4O
product | (4R,11aR)-1,2,3,4,11,11a-hexahydro-2,4-dimethyl-pyrazino[1,2-b]isoquinolin-6-one | 1.5 mg, 17% yield | CN1C[C@@H]2N(C(C=3C=CC=CC3C2)=O)[C@@H](C1)C | C14H18N2O
